US07799775B2
To 10 ml of methanol, 300 mg of sodium borohydride was added and into this mixture, a solution of 145 mg of 6,6-ethylenedioxy-3-isopropylideneamino-2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one as synthesized in Example 4-67 in 10 ml of methanol was dropped under cooling with ice. Raising the temperature to room temperature, the reaction mixture was stirred for an hour. Distilling the system under reduced pressure, water was added to the distillation residue, extracted with methylene chloride, washed with water, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified on silica gel column chromatography (methanol:methylene chloride=2:23) to provide 89 mg (61%) of 6,6-ethylenedioxy-3-isopropylamino-2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one.

reactant | sodium borohydride | 300 mg | [BH4-].[Na+]
reactant | 6,6-ethylenedioxy-3-isopropylideneamino-2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 145 mg | C1OC2(CC=3C(N(C(=NC3CC2)CCCCN2CCN(CC2)C2=NC3=CC=CC=C3C=C2)N=C(C)C)=O)OC1 | C30H38N6O3
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 6,6-ethylenedioxy-3-isopropylamino-2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 89 mg, 61% | C1OC2(CC=3C(N(C(=NC3CC2)CCCCN2CCN(CC2)C2=NC3=CC=CC=C3C=C2)NC(C)C)=O)OC1 | C30H40N6O3
